US06025444
12-1: Cinnamoylglycine methyl ester [compound (2-1b), k=1, R1b =CH3 ]
In 10 ml of chloroform was suspended 1.26 g (10 mmol) of glycine methyl ester hydrochloride and, under ice-cooling, 2.77 ml (20 mmol) of triethylamine and 10 ml of 2.78 g (10 mmol) of cinnamic acid anhydride/chloroform were successively added. The mixture was stirred at room temperature for 24 hours. The reaction mixture was then diluted with 50 ml of ethyl acetate and washed successively twice with a 5% aqueous citric acid solution, water, a 5% aqueous sodium hydrogen carbonate solution, and with water, and a saturated aqueous sodium chloride solution. The organic layer was dried over anhydrous sodium sulfate. The sodium sulfate was filtered off and the filtrate was concentrated under reduced pressure. The residue was recrystallized from ethyl acetate-petroleum ether to provide 1.67 g (yield 71%) of compound (2-lb) as platelets. Structure was confirmed by 1H-NMR.

reactant | glycine methyl ester hydrochloride | 10 mmol, 1.26 g | Cl.COC(CN)=O
reactant | triethylamine | 20 mmol, 2.77 ml | C(C)N(CC)CC | C6H15N
reactant | cinnamic acid anhydride chloroform | 10 mmol, 2.78 g | C(C=CC1=CC=CC=C1)(=O)OC(C=CC1=CC=CC=C1)=O.C(Cl)(Cl)Cl
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | Cinnamoylglycine methyl ester | 1.67 g, yield 71% | COC(CNC(C=CC1=CC=CC=C1)=O)=O | C12H13NO3
